US04663341
In a 1000 ml round bottomed flask equipped with a reflux condensor was placed 100 g 4-chlorophenyl benzyl ketone (0.43 mole), 400 ml of methanol, 50 ml of 37% formalin (0.67 mole), 5 g of piperidine, and 5 g of acetic acid. The resulting mixture was refluxed for 2 hours, concentrated in vacuo, partitioned between ethyl ether and water, washed with water, dried over anhydrous magnesium sulfate and concentrated in vacuo to yield 98 g of 2-phenyl 4'-chlorophenyl acrylophenone, an oil.

reactant | 4-chlorophenyl benzyl ketone | 0.43 mole, 100 g | C(C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)Cl | C14H11ClO
reactant | methanol | 400 ml | CO | CH4O
reactant | formalin | 0.67 mole, 50 ml | C=O | CH2O
reactant | piperidine | 5 g | N1CCCCC1 | C5H11N
reactant | acetic acid | 5 g | C(C)(=O)O | C2H4O2
product | 2-phenyl 4'-chlorophenyl acrylophenone | 98 g | C1(=CC=CC=C1)C1=C(C=CC=C1)C(C(=O)C1=CC=C(C=C1)Cl)=C | C21H15ClO
